US05646173
A solution of 25 g of 5-chloro-1-indanone, 31 ml of 3-buten-2-ol and 250 mg of p-toluenesulfonic acid in 31 ml of 2,2-dimethoxy-propane and 250 ml of anhydrous toluene was boiled under reflux for 17 hours. The reaction mixture was subsequently concentrated in a vacuum and purified by column chromatography on silica gel (hexane/diethyl ether 5:1). 11.9 g (36%) of (RS)-2-(2-buten-1-yl)-5-chloro-1-indanone were obtained as a yellow oil.

reactant | 5-chloro-1-indanone | 25 g | ClC=1C=C2CCC(C2=CC1)=O | C9H7ClO
reactant | 3-buten-2-ol | 31 ml | CC(C=C)O | C4H8O
reactant | p-toluenesulfonic acid | 250 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | 2,2-dimethoxy-propane | 31 ml | COC(C)(C)OC | C5H12O2
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | (RS)-2-(2-buten-1-yl)-5-chloro-1-indanone | 11.9 g, 36% | C(C=CC)C1C(C2=CC=C(C=C2C1)Cl)=O | C13H13ClO
